Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
tremors
 
Major Surgical or Invasive Procedure:
Deep Brain Stimulator Stage one on left and bilateral Stage 2 on 
___- by Dr ___

 
___ of Present Illness:
This is a ___ year old patient with history of Parkinsons Disease 
.  She is staus post right DBS stage one on ___ ___.  The patient presents electively today for Stage 1 DBS 
on left and DBS stage 2 bilaterally
 
Past Medical History:
___ disease, osteoporosis, shingles, hysterectomy, vein 
stripping 
 
Social History:
___
Family History:
non contributory
 
Physical Exam:
on the day of admission ___:
afebrile, normotensive
no focal deficits

on day of discharge
afebrile, SBPs in 150s
small hematoma on right chest, stable
dressing clean, dry
exam unchanged from admission
 
Pertinent Results:
Labs on Admission:

___ 02:58PM   WBC-5.3 RBC-3.52* HGB-10.9* HCT-33.5* MCV-95 
MCH-30.9 MCHC-32.4 RDW-13.3
___ 02:58PM   PLT COUNT-209
___ 02:58PM   ___ PTT-31.0 ___
___ 02:58PM   GLUCOSE-108* UREA N-15 CREAT-0.5 SODIUM-139 
POTASSIUM-4.0 CHLORIDE-105 TOTAL CO2-29 ANION GAP-9
___ 02:58PM   CALCIUM-8.8 PHOSPHATE-3.7 MAGNESIUM-1.6

Imaging:

MRI brain w/ and w/o contrast ___
Right-sided deep brain stimulator identified extending to the 
inferior basal ganglia region.  No abnormalities are seen within 
the left 
basal ganglia region.  No edema, mass effect or abnormal 
enhancement seen. 

MRI brain post op ___
Status post placement of left-sided deep brain stimulator 
without 
evidence of edema, mass effect, acute infarct or abnormal 
enhancement. 

 
Brief Hospital Course:
This is a ___ year old female with history of Parkinsons Disease 
who is status post stage 1 DBS on the right on ___.  The 
patient presented to the hospital today for an elective stage 1 
DBS on the left and stage 2 bilateral DBS with Dr ___.  The 
patient tolerated the procedure well.  The post operative MRI 
was performed and was consistent with expected post operative 
change and good placement of DBS.   The patient was recovered in 
the PACU.  She developed a right chest hematoma post op, 
pressure dressing was placed.  The hematoma did not expand.  
Patient was evaluated by physical therapy who recommended home 
with physical therapy.  Ms. ___ will follow up with Dr. 
___ in clinic and DBS will be turned on.

TRANSITIONS OF CARE:
- SBPs were in the 150s day of discharge, can follow up with 
primary care physician for HTN ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amantadine 100 mg PO BID 
2. Carbidopa-Levodopa (___) 0.25 TAB PO 7 TIMES A DAY 
3. Azilect *NF* (rasagiline) 1 mg Oral qd parkinsons 
4. Ropinirole 8 mg PO QAM 
requip XL extended release 24 hour 
5. Ropinirole 4 mg PO QPM 
requip XL extended release 24 hour 
6. teriparatide *NF* 20 mcg/dose - 600 mcg/2.4 mL Subcutaneous q 
week 

 
Discharge Medications:
1. Amantadine 100 mg PO BID 
2. Azilect *NF* (rasagiline) 1 mg Oral qd parkinsons 
3. Carbidopa-Levodopa (___) 0.25 TAB PO 7 TIMES A DAY 
4. Ropinirole 8 mg PO QAM 
5. Ropinirole 4 mg PO QPM 
6. teriparatide *NF* 20 mcg/dose - 600 mcg/2.4 mL Subcutaneous q 
week 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Parkinsons Disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Instructions for Follow up: Stage 1 on Left Deep Brain 
Stimulator Placement and Stage ___

•Keep your wound should stay clean and dry until your wound is 
assessed in our office. No Shower for 7 days.
•Have a friend or family member check the wound for signs of 
infection such as redness or drainage daily. 
•Take your pain medicine as prescribed if needed. You do not 
need to take it if you do not have pain.
•Exercise should be limited to walking; no lifting >10lbs, 
straining, or excessive bending.
•Increase your intake of fluids and fiber, as narcotic pain 
medicine can cause constipation. We generally recommend taking 
an over the counter stool softener, such as Docusate (Colace) 
while taking narcotic pain medication.
•DO not take any anti-inflammatory medicines such as Motrin, 
Aspirin, Advil, or Ibuprofen etc. until follow up.
•If you were on a medication such as Coumadin (Warfarin), or 
Plavix (clopidogrel), or Aspirin, do not take this until 
discussed in follow up

CALL YOUR SURGEON IMMEDIATELY IF YOU EXPERIENCE ANY OF THE 
FOLLOWING

•New onset of tremors or seizures.
•Any confusion, lethargy or change in mental status. 
•Any numbness, tingling, weakness in your extremities.
•Pain or headache that is continually increasing, or not 
relieved by pain medication.
•New onset of the loss of function, or decrease of function on 
one whole side of your body.

 
Followup Instructions:
___